US09403798B2
4-(4-Fluorophenyl)-1-(4-oxo-5-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-4,5-dihydro-1,3,5-triazin-2-yl)-1,2,3,6-tetrahydropyridin-3-yl formate
To a crude product synthesized using 4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one (50.0 mg, 0.111 mmol) synthesized in Synthesis Example 190 in a similar manner to Reference Synthesis Example 68, N,N-dimethylformamide (1.0 mL) and copper cyanide (49.3 mg, 0.550 mmol) were added and the resultant mixture was stirred at 100° C. for 1 day. After the completion of the reaction, to the reaction solution, saturated sodium chloride aqueous solution was added and extraction with ethyl acetate from the reaction solution was performed. The organic layer was dried over anhydrous sodium sulfate and was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1→0/1) to obtain the title compound (0.8 mg, yield: 2%).

reactant | 4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 0.111 mmol, 50.0 mg | FC1=CC=C(C=C1)C1=CCN(CC1O)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O | C20H16F4N4O2S
reactant | copper cyanide | 0.550 mmol, 49.3 mg | [Cu](C#N)C#N
reactant | sodium chloride | [Cl-].[Na+]
reactant | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 4-(4-Fluorophenyl)-1-(4-oxo-5-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-4,5-dihydro-1,3,5-triazin-2-yl)-1,2,3,6-tetrahydropyridin-3-yl formate | 0.8 mg, yield: 2% | C(=O)OC1CN(CC=C1C1=CC=C(C=C1)F)C=1N=CN(C(N1)=O)CC=1SC(=CC1)C(F)(F)F | C21H16F4N4O3S
